US05354911
(D): Preparation of 2-ethylbutyraldehyde dimethyl acetal
417.3 g of methanol, 1625 g of cyclohexane, and 6.2 g of p-toluenesulfonic acid are placed in a 4 liter three-necked flask fitted with a stirrer, dropping funnel, reflux condenser, and internal thermometer. 651.3 g of 2-ethylbutyraldehyde is added with stirring over a 5 minute period. Owing to the acetal formation which starts spontaneously, the internal temperature rises to about 32° C. The mixture is allowed to react at 40° C. for 30 minutes, a pH of 7.0 is then established in the reaction mixture, which is composed of a lower water phase and an upper organic phase, by addition of sodium hydroxide solution (20% aqueous solution), and the water phase is separated. To remove the low-boiling components, the organic phase is subjected to initial distillation at 200 mbar and a bottom temperature up to 105° C.

reactant | methanol | 417.3 g | CO | CH4O
reactant | p-toluenesulfonic acid | 6.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-ethylbutyraldehyde | 651.3 g | C(C)C(C=O)CC | C6H12O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | cyclohexane | 1625 g | C1CCCCC1 | C6H12
product | 2-ethylbutyraldehyde dimethyl acetal | COC(C(CC)CC)OC | C8H18O2
